US04337060
The second bleaching liquor requires that sodium silicate (water glass), preferably 42° Be (Na2SiO3 and water), be first mixed and thus reacted with potassium hydroxide (KOH) to form potassium orthosilicate as follows:

reactant | sodium silicate | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+]
reactant | potassium hydroxide | [OH-].[K+]
product | potassium orthosilicate | [Si]([O-])([O-])([O-])[O-].[K+].[K+].[K+].[K+] | InChI=1S/4K.O4Si/c;;;;1-5(2,3)4/q4*+1;-4
